### PR TITLE
Construct the punctured algebraic theory and describe its algebras

### PR DESCRIPTION
**Pull request by arnoudvanderleer**

### CODE REVIEW

File: UniMath/AlgebraicTheories/Examples/PuncturedTheory.v [hunk 1]
```diff
@@ -0,0 +1,260 @@
...
+
+(** * 1. The punctured theory *)
+
+  Definition punctured_theory_data
+    : algebraic_theory_data.
+  Proof.
+    use make_algebraic_theory_data.
+    - intro n.
+      induction n as [| n H].
+      + exact (make_hSet _ isasetempty).
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/Examples/PuncturedTheory.v:52]: What about adding `emptyset`?

File: UniMath/AlgebraicTheories/Examples/PuncturedTheory.v [hunk 2]
```diff
@@ -0,0 +1,260 @@
...
+
+    Lemma punctured_theory_algebra_to_is_algebra
+      : is_algebra punctured_theory_algebra_to_algebra_data.
+    Proof.
+      unfold punctured_theory_algebra_to_algebra_data.
+      refine (squash_rec (λ a, make_hProp _ (isaprop_is_algebra _)) _ a0).
+      intro a0'.
+      use make_is_algebra.
+      - intros m n f g a.
+        unfold AlgebraCategoryCore.subst_action_ax.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/Examples/PuncturedTheory.v:200]: Why not import `AlgebraCategoryCore`?

**Review by nmvdw — APPROVED** [review]

File: UniMath/AlgebraicTheories/Examples/PuncturedTheory.v (hunk 2 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/PuncturedTheory.v]: I removed the dependency

File: UniMath/AlgebraicTheories/Examples/PuncturedTheory.v (hunk 1 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/PuncturedTheory.v]: Good idea

**Comment by arnoudvanderleer** [comment]
@benediktahrens @nmvdw Is this mergeable?

**Review by benediktahrens — APPROVED** [review]
